2157-03-24 10:21:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   MRI performed this morning:
 MAGNETIC RESONANCE IMAGING - At
   [**2157-3-24**] 06:00 AM
   No other overnight events.
   Allergies:
   Penicillins
   Unknown;
   Last dose of Antibiotics:
   Metronidazole - [**2157-3-24**] 04:00 AM
   Vancomycin - [**2157-3-24**] 09:00 AM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2157-3-24**] 01:30 AM
   Heparin Sodium (Prophylaxis) - [**2157-3-24**] 09:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2157-3-24**] 10:21 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.4
C (97.6
   Tcurrent: 36.4
C (97.6
   HR: 91 (89 - 105) bpm
   BP: 138/58(73) {103/51(62) - 138/75(80)} mmHg
   RR: 18 (16 - 26) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
             1,513 mL
   PO:
             TF:
   IVF:
   1,513 mL
   Blood products:
   Total out:
                                                                    235 mL
                                                                    960 mL
   Urine:
                                                                    235 mL
                                                                    960 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -235 mL
                                                                    553 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 97%
   ABG: ///20/
   Physical Examination
   General Appearance: somnolent obese female, opens eyes to voice and
   attempts to answer questions but can only give few word responses and
   then closes her eyes again.
   Eyes / Conjunctiva: PERRL, dry MM
   Head, Ears, Nose, Throat: Poor dentition
   Lymphatic: Cervical WNL, Supraclavicular WNL
   Cardiovascular: Normal S1/S2, tachycardic
   Respiratory / Chest: Symmetric expansion, clear breath sounds, No
   crackles or wheezes
   Abdominal: Soft, Bowel sounds present, Not distended, Tender: diffusely
   but most notably at RLQ with voluntary guarding, Obese, no rebound
   Musculoskeletal: Back: 7cm lower spinal incision with staples in place,
   2in patch of erythema surrounding incision for the length of the wound
   with approximately 2in of induration along the left edge of the
   incision, ~3cm area of fluctuance near the superior edge of the
   incision, thin purulent fluid could be expressed from incision
   Neurologic: somnolent, more attentive this morning, A+Ox3, moving all
   four extremities but unable to cooperate with full neuro exam
   Labs / Radiology
   216 K/uL
   9.0 g/dL
   204 mg/dL
   1.1 mg/dL
   20 mEq/L
   5.0 mEq/L
   20 mg/dL
   102 mEq/L
   132 mEq/L
   28.3 %
   6.4 K/uL
        [image002.jpg]
                             [**2157-3-24**]  02:02 AM
   WBC
   6.4
   Hct
   28.3
   Plt
   216
   Cr
   1.1
   Glucose
   204
   Other labs: PT / PTT / INR:18.1/35.2/1.7, Differential-Neuts:94.3 %,
   Lymph:2.4 %, Mono:2.7 %, Eos:0.4 %, Lactic Acid:2.9 mmol/L, Ca++:7.4
   mg/dL, Mg++:1.4 mg/dL, PO4:2.9 mg/dL
   Assessment and Plan
   52F with h/o HTN, DM, hypothyroidism, RA, Sjogren's, vasculitis, recent
   L3-S1 laminectomy/foraminotomy admitted from OSH after fall with fever
   and hypotension.
   # Fever/Hypotension: On initial presentation to OSH consistent with
   septic shock. Likely source is infection at spine wound with possible
   seeding of the blood to cause bacteremia. Chest CT at OSH was
   unremarkable. UA neg.
   - cont vanco, cefepime
   - discontinue flagyl as no sign of abdominal involvement
   - blood and urine cultures pending from ED
   - surgical wound culture pending from ED
   - IVF bolus prn to maintain MAP>65, UOP>30 cc/h
   - trend lactate post-fluid resuscitation
   - follow up MRI of L-spine to rule out deeper wound infection
   - will eventually need long-term access for IV antibiotics
   # ?Syncope: Pt had reported unwitnessed fall at home and was found
   down, however no documentation regarding this. Head CT at OSH was
   negative for intracranial hemorrhage. No other signs of injury from the
   fall. Pt may have syncopized [**1-3**] hypotension, however cannot rule out
   other causes including MI, vertebrobasilar insufficiency, CVA.
   - monitor on tele
   - will clarify HPI with husband as does not appear to have had a clear
   syncopal episode
   # Abdominal pain: Denies abdominal pain, nausea, or vomiting. She is
   notably tender on exam, mostly at RLQ. CT abd/pelvis does not show any
   obvious acute pathology per discussion with radiology resident, however
   does show a significant amount of stool.
   - aggressive bowel regimen
   - f/[**Location 471**] CT read
   # Surgical wound abscess: Being followed by neurosurgery/spine service.
   Per eval in ED, felt most likely a superficial wound infection.
   - follow up MRI of L spine to r/o deeper infection
   - cont abx as above
   - follow-up spine recs
   - wound consult
   # Delirium: Likely secondary to underlying infection. Also compounded
   by electrolyte abnormalities including acute renal failure and
   hyponatremia. Today appears much improved.
   - treat infection as above
   - correct electrolyte abnormalities
   - hold all psychoactive medications
   # Anemia: Hct is 28.2 from 32.8. Unknown baseline. Guaiac neg in ED. No
   obvious source of bleeding.
   - cont to monitor
   - active type and screen
   - transfuse hct<21
   # SOB: Patient does complain of some SOB which may be related to
   deconditioning with her recent surgery. No obvious cause on imaging.
   - Chest x-ray
   - incentive spirometer
   - PT consult
   # DM:
   - cover with humalog insulin sliding scale
   # HTN: Currently relatively hypotensive for a patient who is
   hypertensive at baseline.
   - will hold antihypertensives in setting of likely sepsis
   # Rheum: Pt has history of RA, Sjogren's, and autoimmune vasculitis per
   records. She is currently taking plaquenil.
   - will hold plaquenil currently
   # Fibromyalgia/Chronic pain: Holding pain meds, elavil, neurontin for
   altered mental status.
   # Ppx: pneumoboots, SQH, protonix
   # FEN:
   - replete Mg, monitor lytes and replete prn
   - IVF prn as above
   - NPO overnight, can advance today
   # Access: PIV x 3
   # Code: full code, confirmed with husband
   # Disp: ICU for now
   # Contact: [**Name (NI) 443**] [**Name (NI) 5532**] [**Telephone/Fax (1) 5533**]
   ICU Care
   Nutrition:
   Advance diet today as mental status has improved.
   Glycemic Control:
   Lines:
   20 Gauge - [**2157-3-23**] 11:56 PM
   18 Gauge - [**2157-3-23**] 11:56 PM
   Prophylaxis:
   DVT: hep SQ
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: watch in ICU for now, can call out to floor if remains
   stable and able to tolerate PO

2157-03-25 07:42:00 Physician Resident Progress Note
Chief Complaint: Draining back wound
   24 Hour Events:
   - BCx [**1-3**] GPCs in clusters
   - Swab culture with coag (+)ve staph x 2
   - Lactate overnight trended down from 2.9 to 1.5
   - NPO for potential neurosurgery procedure in am
   - Per husband no syncopal episode prior to admission
   - Mental status cleared in evening and patient able to recall evening
   HPI / ROS:
   Patient reporting feeling better today. Notes that she had confusion
   yesterday, but can more clearly recall her home course at this time.
   She denies having any wound drainage at home prior to presentation.
   Allergies:
   Penicillins <Unknown>
   Last dose of Antibiotics:
   Metronidazole - [**2157-3-24**] 04:00 AM
   Vancomycin - [**2157-3-24**] 09:00 AM
   Cefipime - [**2157-3-25**] 04:01 AM
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2157-3-24**] 10:33 PM
   Flowsheet Data as of  [**2157-3-25**] 07:42 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.1
C (98.7
   Tcurrent: 36.4
C (97.5
   HR: 61 (61 - 91) bpm
   BP: 93/43(54) {93/43(54) - 138/76(82)} mmHg
   RR: 15 (15 - 20) insp/min
   SpO2: 99% on 2L NC
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                  2,891 mL
                                                                    242 mL
   PO:
                                                                    900 mL
   TF:
   IVF:
                                                                  1,991 mL
                                                                    242 mL
   Blood products:
   Total out:
                                                                  1,540 mL
                                                                    195 mL
   Urine:
                                                                  1,540 mL
                                                                    195 mL
   Balance:
                                                                  1,351 mL
                                                                     47 mL
   Physical Examination
   GEN: NAD
   HEENT: AT / NC, PERRL, oral mucosa moist
   NECK:  Supple, no LAD
   PULM: Bibasilar crackles, but otherwise CTAB, no wheezes
   CARD: RR, nl S1, nl S2
   ABD:  Obese, soft, mildly tender, non-distended
   EXT:  Differential lower extremity edema R > L
   NEURO: Alert and oriented x 3
   Labs / Radiology
   248 K/uL
   8.5 g/dL
   174 mg/dL
   1.1 mg/dL
   23 mEq/L
   4.4 mEq/L
   23 mg/dL
   102 mEq/L
   134 mEq/L
   26.5 %
   4.9 K/uL
        [image002.jpg]
                             [**2157-3-24**]  02:02 AM
                             [**2157-3-24**]  03:48 PM
                             [**2157-3-25**]  03:48 AM
   WBC
   6.4
   4.8
   4.9
   Hct
   28.3
   29.7
   26.5
   Plt
   [**Telephone/Fax (3) 5572**]
   Cr
   1.1
   1.0
   1.1
   Glucose
   [**Telephone/Fax (3) 5573**]
   Other labs: PT / PTT / INR:15.6/32.1/1.4, Differential-Neuts:94.3 %,
   Lymph:2.4 %, Mono:2.7 %, Eos:0.4 %, Lactic Acid:1.5 mmol/L, Albumin:2.8
   g/dL, Ca++:7.9 mg/dL, Mg++:2.7 mg/dL, PO4:3.8 mg/dL
   Assessment and Plan:
   52F with h/o HTN, DM, hypothyroidism, RA, Sjogren's, vasculitis, recent
   L3-S1 laminectomy/foraminotomy admitted from OSH after fall with fever
   and hypotension.
   # Fever/Hypotension:
   On initial presentation to OSH consistent with septic shock. Likely
   source is infection at surgical wound with possible seeding of the
   blood to cause bacteremia. Chest CT at OSH was unremarkable. UA neg.
   Has since had blood cultures with two out of two bottles positive for
   gram positive cocci in clusters.
   - Continue Vancomycin and Cefepime
   - blood and urine cultures pending from ED
   - Follow-up speciation of surgical wound swab coagulase (+)ve staph
   aureus.
   - Follow-up blood culture speciation and sensitivities
   # ?Syncope:
   Clarified with patient and her husband and found that there was not a
   syncopal episode after all. Regardless, head CT from here was read as
   no acute intracranial pathology.
   # Abdominal pain:
   Denies abdominal pain, nausea, or vomiting. She was notably tender on
   exam at admission, mostly at RLQ. CT abd/pelvis at admission showed no
   intra-abdominal pathology. Is less tender today. [**Month (only) 11**] have been related
   to constipation.
   - Continue aggressive bowel regimen
   # Surgical wound abscess:
   Being followed by neurosurgery/spine service. MRI with artifact
   obscuring the imaging of the spinal canal at L3 to S1 level by MRI. No
   spinal abscess or abnormal enhancement from T12 to L2.  As patient has
   markedly improved with antibiotics in last 24 hours, they may not take
   her to the OR for washout of the wound.
   - Await neurosurgery eval in the afternoon to determine if surgery is
   necessary
   - Continue Vancomycin and Cefepime
   # Delirium:
   Resolved overnight. Was likely related to bacteremia.
   # Anemia:
   Hct is stable at ~ 27 this AM. Unknown baseline. Guaiac neg in ED. No
   obvious source of bleeding.
   - cont to monitor
   - active type and screen
   - transfuse hct<21
   # DM:
   - cover with humalog insulin sliding scale
   # HTN:
   Was hypotensive relatively upon presentation; however, BPs stabilized
   overnight and systolics have been stabl in 120s to 130s.
   # Rheum:
   Pt has history of RA, Sjogren's, and autoimmune vasculitis per records.
   She is currently taking plaquenil.
   - will hold plaquenil currently
   - Artificial tears for dry eyes
   # Fibromyalgia/Chronic pain:
   Holding pain meds, elavil, neurontin for altered mental status.
   ICU Care
   Nutrition: Was NPO in anticipation of surgery; will resume diabetic and
   heart-healthy diet when NPO restriction removed
   Glycemic Control: Humalog insulin sliding scale
   Lines:
   20 Gauge - [**2157-3-23**] 11:56 PM
   18 Gauge - [**2157-3-23**] 11:56 PM
   Prophylaxis:
   DVT: Boots, SQ UF Heparin
   Stress ulcer: PPI not indicated; however, is a home med
   Communication:  Husband [**Name (NI) 5532**] [**Telephone/Fax (1) 5533**]
   [**Name2 (NI) 129**] status: Full code
   Disposition: Call out to medical floor if no decision to operate

2157-03-25 11:10:00 Physician Attending Progress Note
Chief Complaint: sepsis from wound infection
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   53 yo women s/p recent back surgery, admitted with confusion, staph
   bacteremia, wound infection.  Mental status much better today.
   24 Hour Events:
 BLOOD CULTURED - At [**2157-3-25**] 04:01 AM
   venipuncture
   Allergies:
   Penicillins
   Unknown;
   Last dose of Antibiotics:
   Metronidazole - [**2157-3-24**] 04:00 AM
   Cefipime - [**2157-3-25**] 04:01 AM
   Vancomycin - [**2157-3-25**] 08:25 AM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2157-3-24**] 10:33 PM
   Other medications:
   levoxyl
   SSI
   colace
   cefepime
   gabapentin
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Ear, Nose, Throat: Dry mouth
   Integumentary (skin): No(t) Rash
   Endocrine: No(t) History of thyroid disease
   Heme / Lymph: Anemia
   Neurologic: No(t) Headache
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2157-3-25**] 11:10 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.1
C (98.7
   Tcurrent: 36.4
C (97.6
   HR: 75 (59 - 88) bpm
   BP: 113/63(95) {93/43(54) - 119/76(95)} mmHg
   RR: 21 (13 - 21) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                  2,893 mL
                                                                  1,343 mL
   PO:
                                                                    900 mL
             TF:
   IVF:
                                                                  1,993 mL
                                                                  1,343 mL
   Blood products:
   Total out:
                                                                  1,540 mL
                                                                    295 mL
   Urine:
                                                                  1,540 mL
                                                                    295 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,353 mL
                                                                  1,048 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 100%
   ABG: ///23/
   Physical Examination
   General Appearance: No acute distress, Thin
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Lymphatic: Cervical WNL
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Present), (Left DP pulse:
   Present)
   Respiratory / Chest: (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: Absent, Left: Absent
   Skin:  Not assessed, sacral wound looks less red.
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Oriented (to): times 3, Movement: Not assessed, Tone: Not
   assessed
   Labs / Radiology
   8.5 g/dL
   248 K/uL
   174 mg/dL
   1.1 mg/dL
   23 mEq/L
   4.4 mEq/L
   23 mg/dL
   102 mEq/L
   134 mEq/L
   26.5 %
   4.9 K/uL
        [image002.jpg]
                             [**2157-3-24**]  02:02 AM
                             [**2157-3-24**]  03:48 PM
                             [**2157-3-25**]  03:48 AM
   WBC
   6.4
   4.8
   4.9
   Hct
   28.3
   29.7
   26.5
   Plt
   [**Telephone/Fax (3) 5572**]
   Cr
   1.1
   1.0
   1.1
   Glucose
   [**Telephone/Fax (3) 5573**]
   Other labs: PT / PTT / INR:15.6/32.1/1.4, Differential-Neuts:94.3 %,
   Lymph:2.4 %, Mono:2.7 %, Eos:0.4 %, Lactic Acid:1.5 mmol/L, Albumin:2.8
   g/dL, Ca++:7.9 mg/dL, Mg++:2.7 mg/dL, PO4:3.8 mg/dL
   Assessment and Plan
   Septic with bacteremia:  Will continue vanco/cefepime for now.  If MSSA
   switch to naf, if MRSA, continue only vanco.
   Delirium:  likely due to sepsis, but much improved now.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2157-3-23**] 11:56 PM
   18 Gauge - [**2157-3-23**] 11:56 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :Can go to floor
   Total time spent: 35 minutes